US07659394B2
Preparation of [2-(Morpholin-2-yl-phenyl-methoxy)-phenyl]-methanol
2-[(5-Oxo-morpholin-2-yl)-phenyl-methoxy]-benzoic acid ethyl ester (0.66 g) was taken up in 10 mL toluene, and cooled to 0 C for the addition of Red-Al (2.8 mL, 5 equiv). The mixture was allowed to warm to room temperature. After 12 h, 2 mL 2 N NaOH was added, and the mixture was stirred at room temperature for 30 min, extracted with toluene (2×5 mL). The organics were combined, dried over MgSO4, filtered and concentrated. The residual oil was taken up in DCM, and pumped onto silica, and purified by MPLC in DCM/MeOH+0.1 NH4OH. Fractions containing the desired compound were combined and concentrated. 0.287 g of [2-(Morpholin-2-yl-phenyl-methoxy)-phenyl]-methanol as a pale yellow oil (51% yield, M+1=300.1).

reactant | 2-[(5-Oxo-morpholin-2-yl)-phenyl-methoxy]-benzoic acid ethyl ester | 0.66 g | C(C)OC(C1=C(C=CC=C1)OC(C1=CC=CC=C1)C1CNC(CO1)=O)=O | C20H21NO5
reactant | Red-Al | 2.8 mL, 5 equiv | COCCO[AlH2-]OCCOC.[Na+]
reactant | NaOH | 2 N, 2 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | [2-(Morpholin-2-yl-phenyl-methoxy)-phenyl]-methanol | 51% yield | N1CC(OCC1)C(OC1=C(C=CC=C1)CO)C1=CC=CC=C1 | C18H21NO3
